US04692442
(3S,4R)-4-(4-p-nitrobenzyloxycarbonylaminobutyrylthio)-3-methoxy-2-oxoazetidine
Analogously to Example 55b), an aqueous solution of 480 mg of 4-p-nitrobenzyloxycarbonylaminothiobutyric acid sodium salt is added to 159 mg of (3S,4S)-4-acetoxy-3-methoxy-2-oxoazetidine in 6 ml of a phosphate buffer of a pH of 7 and 0.4 ml of dioxan. After working up and chromatography over silica gel, the title compound with the following IR spectrum (CH2Cl2) is obtained:

reactant | 4-p-nitrobenzyloxycarbonylaminothiobutyric acid sodium salt | 480 mg | [Na+].[N+](=O)([O-])C1=CC=C(COC(=O)NCCCC(=S)[O-])C=C1
reactant | (3S,4S)-4-acetoxy-3-methoxy-2-oxoazetidine | 159 mg | C(C)(=O)O[C@H]1[C@@H](C(N1)=O)OC | C6H9NO4
reactant | dioxan | 0.4 ml | O1CCOCC1 | C4H8O2
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | phosphate | 6 ml | P(=O)([O-])([O-])[O-]
product | (3S,4R)-4-(4-p-nitrobenzyloxycarbonylaminobutyrylthio)-3-methoxy-2-oxoazetidine | [N+](=O)([O-])C1=CC=C(COC(=O)NCCCC(=O)S[C@@H]2[C@H](C(N2)=O)OC)C=C1 | C16H19N3O7S
